Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
chlorhexidine
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
Biliary cath replace ___

 
History of Present Illness:
Mr. ___ is a ___ male with history of DMII, BPH,
recurrent C. diff, and inoperable cholangiocarcinoma s/p
gemcitabine/cisplatin and Cyberknife in ___ complicated by
recurrent biliary obstruction/cholangitis with MDR E. coli and
liver abscesses s/p 4 week course of tigecycline/ertapenem
in ___ for acute on chronic cholangitis, biliary sepsis and
multiple ERCPs/PTBDs who presents with fever of 101 at home 
after
routine PTBD exchange on ___.

Per chart review, he had undergone routine PTBD exchange on
___ which was successful. He had received prophylactic
Meropenem and is on suppressive TMP-SMX per ID team. When he got
home, he developed chills. Temperature was taken and was 
elevated
to 101.3F. His wife, ___, called covering oncologist and was
instructed to come in. Took two acetaminophen before leaving
home. 

Having post-procedural RUQ pain at site of sutures, but 
otherwise
no other pains. He describes concomitant nausea but no emesis.
Feeling much better since receiving Tylenol. Denies CP, SOB,
constipation, diarrhea.

In the ED, initial vitals: 98.1 | 90 | 139/63 | 16 | 98% RA. 
Tmax
was 98.5 in ED.

Initial labs showed:

WBC 6.2, Hgb 11.2, Hct 35.1, Plts 98 
  
132 | 102 | 15  
----------------< 203
6.1 | 20  | 0.8 

UA with specificity gravity 1.022, mod Leuk esterase, Mod blood,
30 protein, WBC 79, RBC >182, few bacteria. Blood and urine
cultures sent.

Repeat labs at 0840 ___ with:

WBC 3.4, Hgb 11.8, Hct 36.9, Plts 71

137 | 104 | 14  
----------------< 152 
4.1 | 23  | 0.7 

Ca: 8.9 Mg: 1.9 P: 3.3

AST: 30 ALT: 45 AP: 310 Tbili: 0.6 

Lactate 2.2->1.5
  
RUQ US (___):
1. Mild intrahepatic biliary ductal dilation, similar to ___.  Partial visualization of CBD stent, right hepatic
percutaneous biliary drainage catheter, and main portal vein
stent. 
2. Splenomegaly. 

Patient given:
- 0200 ertapenem 1gm
- ___ IV tigecycline 100mg x1
- 1L LR
- PO diphenhydramine 25mg
- 1mg folic acid
- sertraline 50mg
- finasteride 5mg,
- pantoprazole 40mg
- ursodiol 300mg x2 (BID)
- dranbinol 5mg x2
- 2u insulin
- ___ meropenem 500mg 

Patient remained afebrile during ED course and was admitted for
additional observation and evaluation.

VS prior to transfer: 78 130/69 16 97% RA 
  
On arrival to floors, Mr. ___ confirmed the above history. He
otherwise describes constipation and "tarry" hard stools since
his TURP on ___ without any perceptible bleeding. He is
frustrated by having to strain. He also reports that the
urologist who performed the TURP instructed him not to walk
during recovery.  He otherwise describes a mild headache behind
his right eye without any associated vision changes, nausea or
vomiting. 

A complete 10-point REVIEW OF SYSTEMS is otherwise negative
unless noted in the HPI. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools. He states
that over the summer, he was more fatigued than usual with
burping. He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen. He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits. During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct. He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4.
- ___: Repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point. During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung
nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated
this ductal dilation and a mass at the bifurcation of the right
anterior and left intrahepatic ducts worrisome for type IV
___ cholangiocarcinoma. Cytology was suspicious for
carcinoma.
- ___: Repeat ERCP with exchange of plastic for metal stent.
- ___: Start of cisplatin/gemcitabine cycle ___
- ___ Seen in ED for BPV 
- ___: Cycle ___: Hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enterococcus.
- ___: Cycle 3, last dose ___ and ___: Hospitalized for GNR bacteremia and
C. diff and then again for delirium, discharged home.
- ___: C4 D1 Gem/Cis. C4D15 held.
- ___: Completed CK. Radiation and resume C5D1 Gem/Cis. 
Day
15 held due to low counts and post-hospitalization. 
- ___: Admitted for fever, cultures negative. Stents not
entirely patent on CT but fevers resolved, ? viral. 
- ___: Start of C6 with dose reduced gemcitabine to 
800mg/m2.
- ___: Start of C7 with dose reduced gemcitabine to  
750mg/m2. Also received on ___.
- ___: Received last dose, C8D1.
- ___ and ___: Hospitalized for biliary sepsis s/p perc 

chole tube.
- ___: Hospitalized with biliary drain obstruction,
hemobilia s/p exchange of percutaneous biliary drain tubing,
disimpaction of percutaneous biliary drain by, interventional
radiology, ERCP, hepatic capsular artery embolization.
- ___: Admit for ecoli bacteremia with stone/sludge
removal and on IV meropenem X 10 days; ___ admit with 
fever
and PTBD replaced.
- ___: Admitted with replacement of his percutaneous
biliary drain on ___ due to fever. None of his blood
cultures returned positive during that admission.
- ___ and ___: Visited ED with fevers, chills abdominal
pain. 
- ___: Admitted with cholangitis, hospitalization
complicated by hemobilia during ERCP interrogation of L CBD.
Treated with 7d meropenem. Blood cultures negative throughout
hospitalization. MRCP obtained ___ showed no new soft tissue
masses.
- ___: Admitted with cholangitis, ERCP deferred 
given
prior hemobilia. In the absence of an obvious target for
decompression, ___ was not consulted for consideration of biliary
drain replacement. Blood and urine cultures were negative. After
discussion with the infectious disease team, the decision was
made to treat for acute cholangitis with a 10d course of
meropenem 500mg q6h (___), followed by initiation of
suppressive doxycycline 100mg DAILY (for VRE) and bactrim DS 1
tab daily.
- ___: Admitted with cholangitis and associated ESBL
E. coli bacteremia; treated with ERCP ___ with clean out of his
metal stents and 14d meropenem.
- ___: Admitted for fever, cholangitis treated with
ertapenem at discharge and then after that transitioned to
delafloxacin.
- ___: Admitted for bleeding after ERCP.
- ___: Admitted for cholanigitis with E. coli
bacteremia complicated by acute blood loss during CBD balloon
sweep with ERCP secondary to likely portobiliary fistula s/p
portal vein stenting with ___. Treated with 14-day course of
ertapenem.
- ___: Admitted for recurrent cholangitis with MDR
E. Coli bacteremia and discharged on ceftazadime/avibactam and
flagyl. Found to have portal venous thrombus and started on
apixaban.
- ___: Admitted for fever found to have liver
microabscesses s/p right-sided PTBD placement and discharged on
ceftaz-avi and flagyl with plan for 4-week course.
- ___: Admitted with fevers and found to have MDR E.
coli bacteremia in the setting of cholangitis from a clogged 
PTBD
s/p PTBD exchange and discharged on ertapenem/tigecycline.

PAST MEDICAL HISTORY:
- Cholangiocarcinoma, as above
- Biliary obstruction c/b cholangitis
- Rosacea
- BPH
- Migraines controlled on Atenolol
- Arthritis of the knees and shoulder on the right
- C.diff x3
- Diabetes Mellitus diagnosed ___
- Hypertension
- Mild OSA not on CPAP
- GERD

 
Social History:
___
Family History:
Two grandparents with unknown cancers, otherwise no cancer 
history.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals:  98.0 | 121/69 | 66 | 17| 98%RA 
GENERAL: Nontoxic; no acute distress. Some temporal muscle
wasting. 
HEENT: Tacky mucous membranes and dry lips. 
EYES: No scleral icterus, conjunctival injection. 
RESP: CTAB, no adventitious sounds. 
___: RRR, no murmurs; 2+ radial pulses.
GI: Soft, nontender; distended. +Normoactive BS. 
EXT: No peripheral edema. 
SKIN: Warm; dry; + rosacea on face; hairless legs; no other
rashes appreciated on face, back, arms, abdomen, lower legs.
 RUQ drain with dressing clean, dry, intact. 
NEURO: Initially thinks it is in the afternoon (despite being
11:30pm) but is ultimately Alert and Oriented to ___, Month,
Year, and attentive to DOWB. Pupils are equally round and
reactive to light, he has no asterixis, he follows commands
appropriately. He is slightly off in his answers
ACCESS: PIV

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 1234)
    Temp: 98.2 (Tm 99.0), BP: 118/74 (114-122/71-77), HR: 76 
(68-76), RR: 20 (___), O2 sat: 96% (94-97), O2 delivery: Ra  
GENERAL: Nontoxic; no acute distress. 
HEENT: MMM. 
EYES: No scleral icterus, conjunctival injection. 
RESP: CTAB, no adventitious sounds. 
___: RRR, normal S1, S2 no murmurs/rubs/gallops
GI: Soft, nontender; distended. +Normoactive BS. 
EXT: No peripheral edema. 
SKIN: Warm; dry; RUQ drain with dressing clean, dry, intact. 
NEURO: AAOx3 he has no asterixis, he follows commands
appropriately.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:25PM BLOOD WBC-2.6* RBC-3.04* Hgb-8.1* Hct-26.6* 
MCV-88 MCH-26.6 MCHC-30.5* RDW-16.2* RDWSD-51.9* Plt Ct-64*
___ 12:56AM BLOOD Neuts-84.4* Lymphs-6.6* Monos-7.6 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-5.22 AbsLymp-0.41* 
AbsMono-0.47 AbsEos-0.05 AbsBaso-0.02
___ 12:25PM BLOOD ___ TO  ___ TO 
___ 12:56AM BLOOD Glucose-203* UreaN-15 Creat-0.8 Na-132* 
K-6.1* Cl-102 HCO3-20* AnGap-10
___ 12:25PM BLOOD ALT-38 AST-56* AlkPhos-236* TotBili-0.3
___ 08:40AM BLOOD Calcium-8.9 Phos-3.3 Mg-1.9
___ 01:06AM BLOOD Lactate-2.2* K-3.7

DISCHARGE LABS:

___ 05:35AM BLOOD WBC-3.5* RBC-4.61 Hgb-12.3* Hct-39.2* 
MCV-85 MCH-26.7 MCHC-31.4* RDW-16.0* RDWSD-49.9* Plt Ct-87*
___ 05:35AM BLOOD Neuts-62.3 ___ Monos-11.0 Eos-4.0 
Baso-0.6 Im ___ AbsNeut-2.21 AbsLymp-0.76* AbsMono-0.39 
AbsEos-0.14 AbsBaso-0.02
___ 05:35AM BLOOD Glucose-130* UreaN-16 Creat-0.6 Na-140 
K-4.2 Cl-101 HCO3-26 AnGap-13
___ 05:35AM BLOOD ALT-40 AST-26 LD(LDH)-157 AlkPhos-312* 
TotBili-0.5
___ 05:35AM BLOOD Albumin-3.9 Calcium-9.2 Phos-3.6 Mg-2.0

BLOOD CULTURES ___ x2, both no growth to date
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[]Please continue to discuss ongoing indication for apixaban 
given prior PVT. Previously on apixaban but stopped iso 
thrombocytopenia.
[]Blood cultures no growth to date but pending at discharge, 
please follow up final results

CONTACT: ___ (___)
Relationship: Wife 
Phone number: ___ 

BRIEF HOSPITAL COURSE:
======================
___ male with history of DMII, BPH, recurrent C. diff, 
and inoperable cholangiocarcinoma s/p gemcitabine/cisplatin and 
Cyberknife in ___ complicated by recurrent biliary 
obstruction/cholangitis with MDR E. coli, liver abscesses s/p 4 
week course of tigecycline/ertapenem in ___ for acute on 
chronic cholangitis, biliary sepsis and multiple ERCPs/PTBDs who 
presents with fever of 101 at home after routine PTBD exchange. 
Patient was treated with meropenem after having received one 
dose of tigecycline and ertapenem in the ED. During his 
hospitalization his blood cultures remained negative and his 
fever never recurred. His fever was felt to be due to transient 
bacteremia in the setting of recent ___ PTBD exchange on ___.

ACTIVE ISSUES:
==============
#Hx Recurrent biliary obstruction and cholangitis:
#Fevers
#Bacturia: 
Patient presented with fever of 101.3 measured the same day as 
his routine ___ guided PTBD exchange on ___. Prior to his 
procedure he had been on suppressive Bactrim per ID for 
recurrent cholangitis with MDR E. coli in the setting of his 
cholangiocarcinoma. Prior to his procedure he also received one 
dose of meropenem. On presentation to the ED the patient was 
afebrile and HDS with a normal WBC count, relatively normal LFTs 
and a lactate that down trended to 1.5 prior to transfer to the 
floor. His UA was revealing for some WBCs, RBCs and few 
bacteria; however, patient was otherwise asymptomatic and 
recently had a TURP done on ___ at OSH, and so it was felt that 
this did not represent a true UTI. In the ED patient received 
one dose tigecycline and ertapenem after blood and urine 
cultures were drawn. On the floor the patient was continued on 
IV meropenem. His fever was felt to be related to transient 
bacteremia in the setting of his recent ___ procedure given rapid 
defervesence. Blood cultures did not grow any bacteria prior to 
discharge. He was transitioned to his home Bactrim and 
discharged home. 

#Cholangiocarcinoma: 
Patient has stage IV inoperable cholangiocarcinoma. He follows 
with Dr. ___ received treatment for his cancer 
including gemcitabine + cisplatin as well as XRT in ___. During 
admission we continued his home ursodiiol and dronabinol. His 
nausea was treated with Zofran and Compazine PRN. His pain was 
minimally and largely focused around the site of recent PTBD 
manipulation; this was treated with oxycodone 2.5 mg TID PRN. 

#CONSITPATION
#REPORT OF TARRY STOOLS: 
Patient reported a recent history of straining, bloating and 
mild abdominal pain associated with constipation. On admission 
he did describe his most recent bowel movement as "tarry". 
However, there was a low suspicion for acute UGIB given his 
constipated state as blood is a cathartic and an otherwise 
stable H/H. His home PPI was continued His constipation was 
treated with senna and miralax standing.

STABLE/CHRONIC ISSUES
=============================
#Portal Vein Thrombus
Patient was previously on apixaban, which was stopped in ___. 
Should continue to discuss risk/benefit for apixaban.

# BPH
# Hematuria: 
Underwent TURP at an outside hospital on ___. Patient also 
admitted to some hematuria present at the initiation of 
urination that has been ongoing since the time of this 
procedure. His UA on admission was revealing for elevated WBCs, 
RBCs, and few bacteria; however, he was otherwise asymptomatic 
and these findings were felt to be more consistent with his 
recent GU surgery. His home finasteride was continued.

# Allergic Rhinitis
Continued his home loratadine and fluticasone
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Apixaban 5 mg PO BID 
2. Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN sore throat 
3. Dronabinol 10 mg PO QHS 
4. Finasteride 5 mg PO QHS 
5. Fluticasone Propionate NASAL 2 SPRY NU BID 
6. FoLIC Acid 1 mg PO DAILY 
7. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
8. Pantoprazole 40 mg PO QHS 
9. Psyllium Powder 1 PKT PO BID 
10. Ursodiol 300 mg PO BID 
11. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
12. LORazepam 0.25 mg PO BID:PRN acute anxiety 
13. Align (Bifidobacterium infantis) 4 mg oral DAILY 
14. GuaiFENesin ER 1200 mg PO QHS 
15. Osteo Bi-Flex (glucosamine-chondroitin) 250-200 mg oral QHS 
16. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
17. Sulfameth/Trimethoprim DS 1 TAB PO BID 
18. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  Align (Bifidobacterium infantis) 4 mg oral DAILY  
3.  Dronabinol 10 mg PO QHS  
4.  Finasteride 5 mg PO QHS  
5.  FoLIC Acid 1 mg PO DAILY  
6.  Gas-X (simethicone) 62.5 mg oral BID:PRN bloating  
7.  LORazepam 0.25 mg PO BID:PRN acute anxiety  
8.  melatonin 5 mg oral QHS  
9.  Ondansetron 8 mg PO Q8H:PRN nausea/vomiting  
10.  Pantoprazole 40 mg PO QHS  
11.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
12.  Psyllium Powder 1 PKT PO BID  
13.  Sertraline 50 mg PO DAILY  
14.  Sulfameth/Trimethoprim DS 1 TAB PO BID  
15.  trospium 20 mg oral BID:PRN urgency/bladder spasm  
16.  Ursodiol 300 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Fever
Cholangiocarcinoma

SECONDARY DIAGNOSES:
====================
Diabetes
Benign prostatic hyperplasia
Allergic rhinitis
History of portal venous thrombus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
 
It was a pleasure caring for you at ___ 
___.  
 
WHY WAS I IN THE HOSPITAL?  
- You were admitted for fever of 101.3 after exchange of your 
biliary tube
 
WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You received IV antibiotics to treat a suspected infection 
given your history of recurrent biliary infections
- Your blood cultures remained negative and your fever never 
returned
- You were restarted on your home antibiotics and discharged 
home
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- If you notice any of the danger signs listed below, please 
call your doctor or got an emergency room immediately 
 
We wish you the best!  
 
Sincerely,  
Your ___ Team  

 
Followup Instructions:
___